* tb_temp_core_loop_stability_postlayout -- HAND-MAINTAINED, not
* sim/build_tb.py output.
*
* POST-LAYOUT SIBLING (issue #298) of
* sim/temp-core-loop-stability/testbench/tb_temp_core_loop_stability.spice
* (issue #274, the schematic-level loop-break testbench) -- read that file's
* header first for the full method: why the loop is broken at PG, why PG
* itself stays put and only the two feedback-closing gates move, and the
* algebra showing the measured ratio T(jw) = V(xdut.pg)/V(pg_fb) does not
* depend on the injection source's polarity or amplitude. This file applies
* the identical four-edit break technique to the EXTRACTED netlist instead
* of the schematic export, so it cannot be sim/build_tb.py output either:
* build_tb.py only ever appends a cell VERBATIM after the stimulus, and this
* fragment edits lines *inside* the subcircuit body -- a verbatim copy has
* nothing to attach that edit to.
*
* ---- What changed vs layout/postlayout/temp_core.spice -------------------
*
* In the extracted netlist, XMP1/XMP2 -- the schematic's names for the two
* mirror legs whose gates actually close the loop -- are each split by the
* layout into two parallel unit devices: XMP1 -> X36 + X47 (drain M1D),
* XMP2 -> X38 + X45 (drain M2D). XMP3, the dead-end PTAT-readout leg that
* does NOT feed back into the amplifier's own inputs (see the schematic
* fragment's header), is likewise split into X40 + X43 (drain M3D) and is
* deliberately left on PG here, exactly as the schematic fragment leaves
* XMP3 on PG. So this fork, applied to a verbatim copy of
* layout/postlayout/temp_core.spice, changes exactly:
*   1. `.subckt temp_core VDD VSS IBIAS EN PTAT CTAT` ->
*      `.subckt temp_core_loopbreak_postlayout VDD VSS IBIAS EN PTAT CTAT
*      PG_FB` (rename + one new port, so this can never be confused with the
*      real extracted temp_core.spice or accidentally instantiated in its
*      place)
*   2. `X36 M1D PG VDD VDD ...` -> `X36 M1D PG_FB VDD VDD ...`
*   3. `X38 M2D PG VDD VDD ...` -> `X38 M2D PG_FB VDD VDD ...`
*   4. `X45 M2D PG VDD VDD ...` -> `X45 M2D PG_FB VDD VDD ...`
*   5. `X47 M1D PG VDD VDD ...` -> `X47 M1D PG_FB VDD VDD ...`
*   6. `.ends temp_core` -> `.ends temp_core_loopbreak_postlayout`
* X40 and X43 (M3D, the dead-end leg) are untouched -- both stay on PG.
* Nothing else in the subcircuit body was touched: `RPG PG PG__par 5100.563`
* / `CPG PG__par VSS 6.1728862e-14` (the extracted interconnect of PG) stay
* attached to node PG, not PG_FB -- that lumped R/C is
* layout/postlayout.py's model of PG's OWN drawn interconnect, i.e. the
* amplifier's output metal, so it belongs on the side of the break where
* that metal physically is. PG_FB carries no interconnect model of its own
* in this extraction (the deck did not resolve an independent parasitic
* stub for the short mirror-gate wire); its only load in this fragment is
* XMP1/XMP2's four gate capacitances plus the injection source.
*
* Forked from layout/postlayout/temp_core.spice (sha256
* 141d839b8dd157a79a73b70d05ffa0a0cb15d46adc8640d397bfae8023d0c9b6; that
* file's own header: klt 0.2.0, deck gf180mcu, GDS sha256
* 360bbbea3f065932..., 73/73 nets matched, 69/73 with parasitics -- see
* layout/postlayout/AUDIT.md) by hand, verified against the mapping the
* Curator spot-checked in issue #298's own review comment. If
* layout/postlayout/temp_core.spice is regenerated (new layout, new klt
* run), re-diff this file against it and re-apply the same edits by hand;
* `python3 sim/build_tb.py --check` cannot catch drift here since this
* fragment is deliberately outside that mechanism, exactly like its
* schematic sibling.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those (sim/harness/README.md). Parameters it supplies:
* vdd_val, vdd_nom, temp_c.

* ---- stimulus: one enabled DUT, PG broken out for AC injection ----------
* Identical to the schematic sibling's stimulus (same DUT port list and
* same 1 Tohm effectively-unloaded pad convention), except the instantiated
* subcircuit is this file's extracted temp_core_loopbreak_postlayout.
vsup  vdd 0 dc {vdd_val}
ven   en  0 dc {vdd_val}
xdut  vdd 0 ibias en ptat ctat pg_fb temp_core_loopbreak_postlayout
ibref vdd ibias dc 500n
Rlp   ptat 0 1T
Rlc   ctat 0 1T

* Loop-break injection: DC 0 (so the DC operating point is unaffected -- see
* the schematic sibling's header for the algebra, unchanged here) / AC 1
* (the small-signal stimulus the .ac sweep uses).
vac   pg_fb xdut.pg dc 0 ac 1

* temp_core_loopbreak_postlayout -- hand-forked from
* layout/postlayout/temp_core.spice (see header above for exactly what
* changed and why).
.subckt temp_core_loopbreak_postlayout VDD VSS IBIAS EN PTAT CTAT PG_FB

* --- drawn devices ---
X1 VSS VSS VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X2 N1 N1 VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X3 N2 N1 VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X4 N2 N1 VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X5 N1 N1 VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X6 VSS VSS VSS VSS nfet_03v3 L=8u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X7 PG N2 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad=6.4p as=6.4p pd=17.6u ps=17.6u m=1
X8 IBIAS NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X9 IBIAS EN NBG VSS nfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X10 NBG ENB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X11 PB NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X12 PCAS NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X13 ENB EN VSS VSS nfet_03v3 L=0.5u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X14 ND NR VSS VSS nfet_03v3 L=2u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X15 PG ND VSS VSS nfet_03v3 L=1u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X16 NR NR VSS VSS nfet_03v3 L=2u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X17 ND ENB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X18 PTAT ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X19 CTAT ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X20 N2 ENB VSS VSS nfet_03v3 L=1u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X21 NT ENB VSS VSS nfet_03v3 L=1u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X22 T5 VDD T4 VSS nfet_03v3 L=0.5u W=32u nf=1 ad=25.6p as=25.6p pd=65.6u ps=65.6u m=1
X23 T3 VSS T2 VSS nfet_03v3 L=0.5u W=32u nf=1 ad=25.6p as=25.6p pd=65.6u ps=65.6u m=1
X24 T1 VSS T0 VSS nfet_03v3 L=0.5u W=32u nf=1 ad=25.6p as=25.6p pd=65.6u ps=65.6u m=1
X25 T0 VSS VSS VSS nfet_03v3 L=0.5u W=32u nf=1 ad=25.6p as=25.6p pd=65.6u ps=65.6u m=1
X26 T2 VSS T1 VSS nfet_03v3 L=0.5u W=32u nf=1 ad=25.6p as=25.6p pd=65.6u ps=65.6u m=1
X27 T4 VSS T3 VSS nfet_03v3 L=0.5u W=32u nf=1 ad=25.6p as=25.6p pd=65.6u ps=65.6u m=1
X28 NT NT NT NT pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X29 N1 NA NT NT pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X30 N2 NB NT NT pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X31 N2 NB NT NT pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X32 N1 NA NT NT pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X33 NT NT NT NT pfet_03v3 L=4u W=16u nf=1 ad=12.8p as=12.8p pd=33.6u ps=33.6u m=1
X34 NT PB VDD VDD pfet_03v3 L=4u W=20u nf=1 ad=16p as=16p pd=41.6u ps=41.6u m=1
X35 VDD VDD VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X36 M1D PG_FB VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X37 NA PCAS M1D VDD pfet_03v3 L=1u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X38 M2D PG_FB VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X39 NB PCAS M2D VDD pfet_03v3 L=1u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X40 M3D PG VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X41 PTAT PCAS M3D VDD pfet_03v3 L=1u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X42 PTAT PCAS M3D VDD pfet_03v3 L=1u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X43 M3D PG VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X44 NB PCAS M2D VDD pfet_03v3 L=1u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X45 M2D PG_FB VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X46 NA PCAS M1D VDD pfet_03v3 L=1u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X47 M1D PG_FB VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X48 VDD VDD VDD VDD pfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X49 PG PB VDD VDD pfet_03v3 L=4u W=10u nf=1 ad=8p as=8p pd=21.6u ps=21.6u m=1
X50 PB PB VDD VDD pfet_03v3 L=4u W=10u nf=1 ad=8p as=8p pd=21.6u ps=21.6u m=1
X51 PCAS PCAS VDD VDD pfet_03v3 L=8u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X52 ENB EN VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X53 ND PB VDD VDD pfet_03v3 L=8u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X54 NR PG VDD VDD pfet_03v3 L=4u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X55 PG EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X56 VSS VSS NC pnp_10p00x10p00
X57 VSS VSS NC pnp_10p00x10p00
X58 VSS VSS NC pnp_10p00x10p00
X59 VSS VSS NC pnp_10p00x10p00
X60 VSS VSS NA pnp_10p00x10p00
X61 VSS VSS NC pnp_10p00x10p00
X62 VSS VSS NC pnp_10p00x10p00
X63 VSS VSS NC pnp_10p00x10p00
X64 VSS VSS NC pnp_10p00x10p00
X65 PG NZ cap_mim_2f0_m3m4_noshield c_width=12u c_length=12u
X66 NB XR1__1 VSS ppolyf_u r_width=2u r_length=59.735u
X67 NC XR1__1 VSS ppolyf_u r_width=2u r_length=59.735u
X68 NA XRISO__1 VSS ppolyf_u r_width=2u r_length=55.525u
X69 CTAT XRISO__1 VSS ppolyf_u r_width=2u r_length=55.525u
X70 NZ XRZ__1 VSS ppolyf_u r_width=2u r_length=100u
X71 XRZ__2 XRZ__1 VSS ppolyf_u r_width=2u r_length=100u
X72 XRZ__2 XRZ__3 VSS ppolyf_u r_width=2u r_length=100u
X73 XRZ__4 XRZ__3 VSS ppolyf_u r_width=2u r_length=100u
X74 XRZ__4 XRZ__5 VSS ppolyf_u r_width=2u r_length=100u
X75 XRZ__6 XRZ__5 VSS ppolyf_u r_width=2u r_length=100u
X76 XRZ__6 XRZ__7 VSS ppolyf_u r_width=2u r_length=100u
X77 XRZ__8 XRZ__7 VSS ppolyf_u r_width=2u r_length=100u
X78 XRZ__8 XRZ__9 VSS ppolyf_u r_width=2u r_length=100u
X79 N2 XRZ__9 VSS ppolyf_u r_width=2u r_length=100u
X80 PTAT XR2F__1 VSS ppolyf_u r_width=2u r_length=110.525u
X81 XR2F__2 XR2F__1 VSS ppolyf_u r_width=2u r_length=110.525u
X82 XR2F__2 XR2F__3 VSS ppolyf_u r_width=2u r_length=110.525u
X83 XR2F__4 XR2F__3 VSS ppolyf_u r_width=2u r_length=110.525u
X84 XR2F__4 XR2F__5 VSS ppolyf_u r_width=2u r_length=110.525u
X85 XR2F__6 XR2F__5 VSS ppolyf_u r_width=2u r_length=110.525u
X86 XR2F__6 XR2F__7 VSS ppolyf_u r_width=2u r_length=110.525u
X87 XR2F__8 XR2F__7 VSS ppolyf_u r_width=2u r_length=110.525u
X88 XR2F__8 XR2F__9 VSS ppolyf_u r_width=2u r_length=110.525u
X89 XR2F__10 XR2F__9 VSS ppolyf_u r_width=2u r_length=110.525u
X90 XR2F__10 XR2F__11 VSS ppolyf_u r_width=2u r_length=110.525u
X91 XR2F__12 XR2F__11 VSS ppolyf_u r_width=2u r_length=110.525u
X92 XR2F__12 XR2F__13 VSS ppolyf_u r_width=2u r_length=110.525u
X93 XR2F__14 XR2F__13 VSS ppolyf_u r_width=2u r_length=110.525u
X94 XR2F__14 XR2F__15 VSS ppolyf_u r_width=2u r_length=110.525u
X95 XR2F__16 XR2F__15 VSS ppolyf_u r_width=2u r_length=110.525u
X96 XR2F__16 XR2F__17 VSS ppolyf_u r_width=2u r_length=110.525u
X97 XR2F__18 XR2F__17 VSS ppolyf_u r_width=2u r_length=110.525u
X98 XR2F__18 XR2F__19 VSS ppolyf_u r_width=2u r_length=110.525u
X99 XR2F__20 XR2F__19 VSS ppolyf_u r_width=2u r_length=110.525u
X100 XR2F__20 XR2F__21 VSS ppolyf_u r_width=2u r_length=110.525u
X101 XR2F__22 XR2F__21 VSS ppolyf_u r_width=2u r_length=110.525u
X102 XR2F__22 XR2F__23 VSS ppolyf_u r_width=2u r_length=110.525u
X103 T5 XR2F__23 VSS ppolyf_u r_width=2u r_length=110.525u
X104 T5 XR2T5__1 VSS ppolyf_u r_width=2u r_length=114.855u
X105 T4 XR2T5__1 VSS ppolyf_u r_width=2u r_length=114.855u
X106 T4 XR2T4__1 VSS ppolyf_u r_width=2u r_length=57.345u
X107 T3 XR2T4__1 VSS ppolyf_u r_width=2u r_length=57.345u
X108 T3 XR2T3__1 VSS ppolyf_u r_width=2u r_length=28.59u
X109 T2 XR2T3__1 VSS ppolyf_u r_width=2u r_length=28.59u
X110 T2 XR2T2__1 VSS ppolyf_u r_width=2u r_length=14.21u
X111 T1 XR2T2__1 VSS ppolyf_u r_width=2u r_length=14.21u
X112 T1 XR2T1__1 VSS ppolyf_u r_width=2u r_length=7.015u
X113 T0 XR2T1__1 VSS ppolyf_u r_width=2u r_length=7.015u
X114 T0 XR2T0__1 VSS ppolyf_u r_width=2u r_length=3.425u
X115 VSS XR2T0__1 VSS ppolyf_u r_width=2u r_length=3.425u

R_30 XRZ__2 XRZ__2__par 50.5749
C_30 XRZ__2__par VSS 1.599507e-15
R_31 XRZ__4 XRZ__4__par 50.5749
C_31 XRZ__4__par VSS 1.599507e-15
R_32 XRZ__6 XRZ__6__par 50.5749
C_32 XRZ__6__par VSS 1.599507e-15
R_33 XRZ__8 XRZ__8__par 50.5749
C_33 XRZ__8__par VSS 1.599507e-15
R_34 XR2F__2 XR2F__2__par 50.5749
C_34 XR2F__2__par VSS 1.599507e-15
R_35 XR2F__4 XR2F__4__par 50.5749
C_35 XR2F__4__par VSS 1.599507e-15
R_36 XR2F__6 XR2F__6__par 50.5749
C_36 XR2F__6__par VSS 1.599507e-15
R_37 XR2F__8 XR2F__8__par 50.5749
C_37 XR2F__8__par VSS 1.599507e-15
R_38 XR2F__10 XR2F__10__par 50.5749
C_38 XR2F__10__par VSS 1.599507e-15
R_39 XR2F__12 XR2F__12__par 50.5749
C_39 XR2F__12__par VSS 1.599507e-15
R_40 XR2F__14 XR2F__14__par 50.5749
C_40 XR2F__14__par VSS 1.599507e-15
R_41 XR2F__16 XR2F__16__par 50.5749
C_41 XR2F__16__par VSS 1.599507e-15
R_42 XR2F__18 XR2F__18__par 50.5749
C_42 XR2F__18__par VSS 1.599507e-15
R_43 XR2F__20 XR2F__20__par 50.5749
C_43 XR2F__20__par VSS 1.599507e-15
R_44 XR2F__22 XR2F__22__par 50.5749
C_44 XR2F__22__par VSS 1.599507e-15
R_50 XR2T0__1 XR2T0__1__par 50.5749
C_50 XR2T0__1__par VSS 1.599507e-15
R_51 XR2T1__1 XR2T1__1__par 50.5749
C_51 XR2T1__1__par VSS 1.599507e-15
R_56 XR2T2__1 XR2T2__1__par 50.5749
C_56 XR2T2__1__par VSS 1.599507e-15
R_60 XR2T3__1 XR2T3__1__par 50.5749
C_60 XR2T3__1__par VSS 1.599507e-15
R_68 XRISO__1 XRISO__1__par 50.5749
C_68 XRISO__1__par VSS 1.599507e-15
R_69 XR2T4__1 XR2T4__1__par 50.5749
C_69 XR2T4__1__par VSS 1.599507e-15
R_70 XR1__1 XR1__1__par 50.5749
C_70 XR1__1__par VSS 1.599507e-15
R_71 XRZ__1 XRZ__1__par 50.5749
C_71 XRZ__1__par VSS 1.599507e-15
R_72 XRZ__3 XRZ__3__par 50.5749
C_72 XRZ__3__par VSS 1.599507e-15
R_73 XRZ__5 XRZ__5__par 50.5749
C_73 XRZ__5__par VSS 1.599507e-15
R_74 XRZ__7 XRZ__7__par 50.5749
C_74 XRZ__7__par VSS 1.599507e-15
R_75 XRZ__9 XRZ__9__par 50.5749
C_75 XRZ__9__par VSS 1.599507e-15
R_76 XR2F__1 XR2F__1__par 50.5749
C_76 XR2F__1__par VSS 1.599507e-15
R_77 XR2F__3 XR2F__3__par 50.5749
C_77 XR2F__3__par VSS 1.599507e-15
R_78 XR2F__5 XR2F__5__par 50.5749
C_78 XR2F__5__par VSS 1.599507e-15
R_79 XR2F__7 XR2F__7__par 50.5749
C_79 XR2F__7__par VSS 1.599507e-15
R_80 XR2F__9 XR2F__9__par 50.5749
C_80 XR2F__9__par VSS 1.599507e-15
R_81 XR2F__11 XR2F__11__par 50.5749
C_81 XR2F__11__par VSS 1.599507e-15
R_82 XR2F__13 XR2F__13__par 50.5749
C_82 XR2F__13__par VSS 1.599507e-15
R_83 XR2F__15 XR2F__15__par 50.5749
C_83 XR2F__15__par VSS 1.599507e-15
R_84 XR2F__17 XR2F__17__par 50.5749
C_84 XR2F__17__par VSS 1.599507e-15
R_85 XR2F__19 XR2F__19__par 50.5749
C_85 XR2F__19__par VSS 1.599507e-15
R_86 XR2F__21 XR2F__21__par 50.5749
C_86 XR2F__21__par VSS 1.599507e-15
R_87 XR2F__23 XR2F__23__par 50.5749
C_87 XR2F__23__par VSS 1.599507e-15
R_88 XR2T5__1 XR2T5__1__par 50.5749
C_88 XR2T5__1__par VSS 1.599507e-15
RCTAT CTAT CTAT__par 508.901
CCTAT CTAT__par VSS 3.2409351e-14
REN EN EN__par 1473.1873
CEN EN__par VSS 3.3733752e-14
RENB ENB ENB__par 1722.3174
CENB ENB__par VSS 3.6434644e-14
RIBIAS IBIAS IBIAS__par 322.6504
CIBIAS IBIAS__par VSS 2.0287657e-14
RM1D M1D M1D__par 1326.5002
CM1D M1D__par VSS 2.6584926e-14
RM2D M2D M2D__par 1250.9542
CM2D M2D__par VSS 2.5194004e-14
RM3D M3D M3D__par 1175.4138
CM3D M3D__par VSS 2.3803081e-14
RN1 N1 N1__par 3916.0744
CN1 N1__par VSS 3.9166451e-14
RN2 N2 N2__par 2349.712
CN2 N2__par VSS 5.2203575e-14
RNA NA NA__par 2133.218
CNA NA__par VSS 6.3089263e-14
RNB NB NB__par 2057.3709
CNB NB__par VSS 4.3487422e-14
RNBG NBG NBG__par 1144.9314
CNBG NBG__par VSS 2.6946068e-14
RNC NC NC__par 65.9407
CNC NC__par VSS 8.5417204e-14
RND ND ND__par 1512.6715
CND ND__par VSS 3.4769335e-14
RNR NR NR__par 1694.9168
CNR NR__par VSS 3.5399052e-14
RNT NT NT__par 5451.5605
CNT NT__par VSS 7.8898189e-14
RNZ NZ NZ__par 105.4766
CNZ NZ__par VSS 2.9335487e-14
RPB PB PB__par 3535.6753
CPB PB__par VSS 4.7145745e-14
RPCAS PCAS PCAS__par 4548.8647
CPCAS PCAS__par VSS 5.3738496e-14
RPG PG PG__par 5100.563
CPG PG__par VSS 6.1728862e-14
RPTAT PTAT PTAT__par 962.4337
CPTAT PTAT__par VSS 3.9542032e-14
RT0 T0 T0__par 1253.0071
CT0 T0__par VSS 5.5998739e-14
RT1 T1 T1__par 1214.9021
CT1 T1__par VSS 5.5179431e-14
RT2 T2 T2__par 1176.8024
CT2 T2__par VSS 5.4360123e-14
RT3 T3 T3__par 1138.7083
CT3 T3__par VSS 5.3540815e-14
RT4 T4 T4__par 1100.6204
CT4 T4__par VSS 5.2721507e-14
RT5 T5 T5__par 607.3914
CT5 T5__par VSS 4.5515196e-14
RVDD VDD VDD__par 11776.8157
CVDD VDD__par VSS 1.23638547e-13
RVSS VSS VSS__par 3083.8865
CVSS VSS__par VSS 1.58058319e-13
.ends temp_core_loopbreak_postlayout
